US08211908B2
To 7.00 g of (7-bromo-2-oxo-1,5-naphthyridin-1(2H)-yl)acetaldehyde, a solution of 10.07 g of tert-butyl (2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)(piperidin-4-yl)carbamate in 140 mL of chloroform and 1.57 g of acetic acid were added, and the mixture was stirred at room temperature for 19 hours, then, 8.77 g of sodium triacetoxyborohydride was added thereto and the mixture was stirred for 2 hours. To the reaction mixture, 140 mL of a saturated aqueous sodium hydrogen carbonate solution was added, the organic layer was separated, then washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography using silica gel; Chromatorex-NH made by Fuji Silysia Chemical Ltd., and gradient elution with hexane:ethyl acetate=50:50 to 5:95, and then recrystallized in 24 mL of ethanol to obtain 11.26 g of tert-butyl (1-(2-(7-bromo-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)(2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)carbamate as a white solid.

reactant | (7-bromo-2-oxo-1,5-naphthyridin-1(2H)-yl)acetaldehyde | 7.00 g | BrC1=CN=C2C=CC(N(C2=C1)CC=O)=O | C10H7BrN2O2
reactant | tert-butyl (2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)(piperidin-4-yl)carbamate | 10.07 g | O1CCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)C2CCNCC2 | C18H27N3O4
reactant | sodium triacetoxyborohydride | 8.77 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | 140 mL | C(O)([O-])=O.[Na+]
solvent | chloroform | 140 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 1.57 g | C(C)(=O)O | C2H4O2
product | tert-butyl (1-(2-(7-bromo-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)(2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)carbamate | 11.26 g | BrC1=CN=C2C=CC(N(C2=C1)CCN1CCC(CC1)N(C(OC(C)(C)C)=O)CC1=CC2=C(C=N1)OCCO2)=O | C28H34BrN5O5
